US05534529
N-[2-t-Butyl-5-(3-phenyl-3-oxopropyl)phenyl]-2-(9H-xanthen-9-yl)acetamide (Compound No. 1-1326)
0.58 ml (4.20 mmol) of triethylamine and 0.31 ml (2.10 mmol) of diethylphosphoryl chloride were added to 20 ml of a benzene suspension containing 505 mg (2.10 mmol) of 2-(9H-xanthen-9-yl)acetic acid, and then the mixture was stirred for 1 hour. At the end of this time, 5 ml of a benzene solution containing 587 mg (2.09 mmol) of 2-t-butyl-5-(3-phenyl-3-oxopropyl)aniline (prepared by a procedure similar to that described in Preparation 7), followed by 10 mg of 4-pyrrolidinopyridine, were added to the reaction suspension, and the resulting mixture was heated under reflux for 4.5 hours. The reaction mixture was then diluted with ethyl acetate, washed with dilute aqueous hydrochloric acid, with water, with a saturated aqueous solution of sodium hydrogen carbonate solution and with a saturated aqueous solution of sodium chloride, in that order. The solvent was then removed by distillation under reduced pressure, and the resulting residue was subjected to column chromatography through silica gel. Elution with a 4:1 by volume mixture of methylene chloride and cyclohexane yielded 934 mg (yield 86%) of the title compound as crystals, melting at 116°-118° C. (after crystallization from diisopropyl ether).

reactant | triethylamine | 4.20 mmol, 0.58 ml | C(C)N(CC)CC | C6H15N
reactant | diethylphosphoryl chloride | 2.10 mmol, 0.31 ml | C(C)P(=O)(CC)Cl | C4H10ClOP
reactant | 2-(9H-xanthen-9-yl)acetic acid | 2.10 mmol, 505 mg | C1=CC=CC=2OC3=CC=CC=C3C(C12)CC(=O)O | C15H12O3
reactant | 2-t-butyl-5-(3-phenyl-3-oxopropyl)aniline | 2.09 mmol, 587 mg | C(C)(C)(C)C1=C(N)C=C(C=C1)CCC(=O)C1=CC=CC=C1 | C19H23NO
reactant | diisopropyl ether | C(C)(C)OC(C)C | C6H14O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | 4-pyrrolidinopyridine | 10 mg | N1(CCCC1)C1=CC=NC=C1 | C9H12N2
solvent | benzene | 5 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 20 ml | C1=CC=CC=C1 | C6H6
product | N-[2-t-Butyl-5-(3-phenyl-3-oxopropyl)phenyl]-2-(9H-xanthen-9-yl)acetamide | 934 mg, yield 86% | C(C)(C)(C)C1=C(C=C(C=C1)CCC(=O)C1=CC=CC=C1)NC(CC1C2=CC=CC=C2OC=2C=CC=CC12)=O | C34H33NO3
